US04489003
A mixture of 6.9 g (20 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]-benzodiazepine-1-carboxylate, 0.6 g (9.2 mmol) of potassium cyanide and 70 ml of hydroxymethyl-cyclohexane is stirred at 130° for 16 hours, a small amount of solvent being distilled off twice in the course of the reaction. The mixture is subsequently evaporated in a high vacuum, the residue is partitioned between water and chloroform, the chloroform solution is washed twice with saturated sodium chloride solution and dried over magnesium sulphate. After evaporation of the chloroform soluticn, the residue is crystallized from ethyl acetate/n-hexane, there being obtained cyclohexylmethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 123°-124° C.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]-benzodiazepine-1-carboxylate | 20 mmol, 6.9 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 9.2 mmol, 0.6 g | [C-]#N.[K+]
solvent | hydroxymethyl-cyclohexane | 70 ml | OCC1CCCCC1 | C7H14O
product | cyclohexylmethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3CCCCC3)CCC1)=O | C22H24ClN3O3
